US09162986B2
tert-Butyl (5′-cyano-2′-methoxy-biphenyl-3-yl-methyl)-carbamate (0.73 g, 2.16 mmol), prepared as in Reference 19, and azidotributyltin (0.9 mL, 3.2 mmol) was dissolved in toluene (5 mL) and the solution was refluxed for 14 hours. The mixture cooled to room temperature and then workup with ethyl acetate and 1N HCl gave a slurry. The slurry was dried by rotovap and then triturated with hexanes. The solids were collected by filtration and treated with hydrobromic acid (48% aqueous, 15 mL). The mixture was refluxed for 14 hours at 120° C. and then diluted with water (50 mL). The dilution was dried by lyophilization to give 3′-aminomethyl-5-(1H-tetrazol-5-yl)-biphenyl-2-ol (0.4 g).

reactant | tert-Butyl (5′-cyano-2′-methoxy-biphenyl-3-yl-methyl)-carbamate | 2.16 mmol, 0.73 g | C(#N)C=1C=CC(=C(C1)C1=CC(=CC=C1)CNC(OC(C)(C)C)=O)OC | C20H22N2O3
reactant | azidotributyltin | 3.2 mmol, 0.9 mL | N(=[N+]=[N-])[Sn](CCCC)(CCCC)CCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | HCl | 1N | Cl | ClH
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 3′-aminomethyl-5-(1H-tetrazol-5-yl)-biphenyl-2-ol | 0.4 g | NCC=1C=C(C=CC1)C=1C(=CC=C(C1)C1=NN=NN1)O | C14H13N5O
